Name:  ___            Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: CARDIOTHORACIC
 
Allergies: 
metformin / Victoza / sulfasalazine
 
Attending: ___.
 
Chief Complaint:
Sternal drainage
 
Major Surgical or Invasive Procedure:
___ - Debridement of sternal wound; omental flap 
___ - 1.  Sternal wound exploration.  2.  Removal of 
inferior four sternal wires.  3.  Sternal debridement.  4.  VAC 
dressing placement.

___:
debridement of sternal wound; omental flap 
 
History of Present Illness:
Ms. ___ is a pleasant ___ year old female s/p CABG x 2 on 
___
with Dr. ___. Her postoperative course has been complicated by 
sternal wound infection which has been treated with PO 
antibiotics, bedside sternal debridement, and VAC dressing. She 
had completed her course of antibiotics and has been on the VAC 
for approximately 11 days. She presented to clinic for wound 
check. She has been experiencing some incisional discomfort in 
addition to sternal drainage.  Given the appearance of her 
wound, she was admitted for further management.
 
Past Medical History:
 

Hypertension      
Hyperlipidemia
MI x 4 
Coronary artery disease 
Ischemic cardiomyopathy s/p IMI, with LVEF 35-40% 
LBBB 
Carotid stenosis s/p ___ stent ___
Diabetes mellitus
Vertigo  
Neuropathy- BLE 
Asthma 
Liver disease  
Steatophepatitis 
Hypothyroidism   
Anemia  
CKD stage III        
Left-sided breast cancer, status post partial
mastectomy ___, XRT for Paget's of the nipple, high-grade
DCIS, atypical lobular hyperplasia.
Psoriatic arthritis on MTX 
Hammertoe 
Past Surgical History:
Left Rotator cuff repair  
Partial left mastectomy ___
Cataract surgery   
___ stent ___
Past Cardiac Procedures:
-NSTEMI ___ with BMSs to LAD and ostial and ___ RCA.  
-NSTEMI ___ s/p mRCA DES(Resolute; 80% stenosis/thrombosis)
-NSTEMI ___ with 99% p/oRCA ISRS s/p DES (2.5x22mm 
Resolute).
-NSTEMI ___ with 90% mid ___ s/p DES (2.5x38mm ___. 

 
Social History:
___
Family History:
Mother lived into late ___ and had syncope and PPM
Father died age ___ of MI, first MI at age ___. 
Twin brother with MI in his ___. 

 
Physical Exam:
Admission Physical Exam:
Vital Signs sheet entries for ___: 
BP: 134/54 (left arm ). Heart Rate: 72. O2 Saturation%: 100 
(room
air ). Resp. Rate: 17. Pain Score: 0.

Height: 64 in   Weight: 184 lbs

General: Elderly female in no acute distress; non-toxic
Chest: Lungs clear bilaterally [X]
Heart: RRR [X]  Irregular []  Murmur [] grade ______ 
Abd: Soft [X] non-distended [X] non-tender [x]  bowel sounds +
Extremities: Warm [X], well-perfused [X]  bilat pedal edema. 
Neuro: Grossly intact [X]
Sternal incision: large opening at inferior poles with copious
amounts of clear, yellow drainage. no erythema. no purulence. +
sternal wires are exposed. + sternum unstable
EVH: left leg - clean, dry and intact

Discharge Physical Exam:

Temp: 98 BP 135/74 HR 73 RR:16 o2sat: 96% room air

Physical Examination:
General: NAD [x]  
Neurological: A/O x3 [x] non-focal [x] 
HEENT:  PEERL [x] 
Cardiovascular: RRR [x]  Irregular []  Murmur [] Rub [] 
Respiratory: CTA [x]  No resp distress [x]
GI/Abdomen: Bowel sounds present [x] Soft [x] ND [x] NT [x]
Extremities: 
Right Upper extremity   Warm [x]  Edema  
Left Upper extremity    Warm [x]  Edema 
Right Lower extremity   Warm [x]  Edema tr
Left Lower extremity    Warm [x]  Edema tr
Pulses:
DP             Right: palp      Left: palp
___             Right: palp        Left: palp
Radial         Right: 1+        Left: 1+
Skin/Wounds: Dry [x] intact [x]
Sternal: CDI [] no erythema or drainage []
                 Sternum stable [x] Prevena [x]

 
Pertinent Results:
___: Chest CT scan:
1. Air-filled gap is identified at the manubrium at the site of 
first 
sternotomy wire from the top. 
2. Air-filled gap is identified within the sternum at the level 
of fifth, 6, and 7 sternotomy wires.  The gap measures 
approximately 7 cm in length. 
3. No fluid collection is identified. 
4. Pulmonary nodules measuring up to 5 mm are identified.  
Please see 
recommendation below. 
  
RECOMMENDATION(S):  For incidentally detected multiple solid 
pulmonary nodules smaller than 6mm, no CT follow-up is 
recommended in a low-risk patient, and an optional CT follow-up 
in 12 months is recommended in a high-risk patient. 

___ 8:12 am SWAB      STERNAL WOUND.  
   WOUND CULTURE (Final ___: 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS).    SPARSE GROWTH. 
 

___ 04:18AM BLOOD WBC-6.8 RBC-2.59* Hgb-8.1* Hct-25.5* 
MCV-99* MCH-31.3 MCHC-31.8* RDW-15.9* RDWSD-57.0* Plt ___
___ 04:18AM BLOOD Glucose-170* UreaN-29* Creat-1.4* Na-139 
K-4.1 Cl-105 HCO3-25 AnGap-9*
___ 04:18AM BLOOD Mg-2.1
Vanco trough ___: 19.4

CXR ___
In comparison the previous film, the cardiomediastinal 
silhouette is stable. There is no focal consolidation consistent 
with acute pneumonia.  There are small bilateral pleural 
effusions.  The PICC line terminates in the cavoatrial junction 
and there is a right IJ that terminates in the right atrium.  
There is no pneumothorax. 

___ Echo:
Pre-bypass rhythm: sinus rhythm with left bundle branch block
 PRE-BYPASS: 
 The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is 
normal. There is moderate regional left ventricular systolic 
dysfunction with visually estimated LVEF of ___. The basal 
inferior and inferoseptal segments are hypokinetic; the 
remaining basal segments contract normally. The mid inferior, 
inferoseptal, anteroseptal and anterior segments are 
hypokinetic. The mid anterolateral and inferolateral segments 
contract normally. The apical segments are severely hypokinetic. 
(True apex not visualized). Septal motion is consistent with 
known left bundle branch block. No masses or thrombi are seen in 
the left ventricle. Doppler parameters are most consistent with 
Grade I (mild) left ventricular diastolic dysfunction. Right 
ventricular chamber size and free wall motion are normal. There 
are simple atheroma in the ascending aorta. There are simple 
atheroma in the descending thoracic aorta. The aortic valve 
leaflets (3) are mildly thickened. There is no aortic valve 
stenosis. Trace aortic regurgitation is seen. The mitral valve 
leaflets are structurally normal. Mild-to-moderate (___) mitral 
regurgitation is seen initially, this decreases to mild at lower 
blood pressures. There is a trivial/physiologic pericardial 
effusion. 
 POST-BYPASS:
 Rhythm: Atrially paced with left bundle branch block
 Infusions: Norepinephrine
 1. Left ventricular systolic function is slightly less vigorous 
(estimated LVEF is approximately 30%). Abnormal septal motion is 
more pronounced with more significant hypokinesis. Mid anterior 
wall hypokinesis is more pronounced than pre-bypass.
 2. Right ventricular function remains preserved.
 3. Mitral regurgitation is trace-mild.
 4. Remaining valvular function is unchanged.
 5. The thoracic aorta is intact following decannulation.

 
Brief Hospital Course:
Mrs. ___ presented to clinic and due to concern for non 
healing sternal wound was admitted for management. ___ was 
consulted for diabetes management. The next day she was taken to 
the operating room with Dr. ___ sternal wound debridement 
with sternal wire removal and VAC dressing on ___. Post 
operative she was taken to the intensive care unit for 
management. She was placed on cefazolin and vancomycin for 
periop antibiotics.  With in a few hours she was weaned from 
sedation, awoke neurologically intact and was extubated. The 
next day she was clinically stable and transitioned to the 
floor.  Plastic surgery was consulted.  She returned to the OR 
___ with Plastics and underwent debridement of sternal wound 
and omental flap. 
She was taken to the intensive care unit and weaned from 
sedation and extubated with in a few hours.  Her cultures from 
___ were positive for corneabacterium and infectious disease 
was consulted, she was continued on vancomycin. On ___ she was 
transferred to the floor. She remained NPO until passing flatus 
on ___ as per plastic surgery due to omental flap. At the time 
of discharge on ___ she was tolerating a regular heart healthy, 
diabetic diet. A PICC line was placed on ___ for her 
antibiotics course of 6 weeks as per infectious disease. 
Infectious Disease will contact the rehab regarding a follow up 
appointment. Specific end date for her antibiotic course will be 
determined at that time. She was discharged to rehab on ___ in 
good condition with a Prevena vac dressing in place. Prevena 
will remain in place until her follow up appointment with 
plastics on ___. 

 
Medications on Admission:
ATORVASTATIN - atorvastatin 80 mg tablet. one tablet(s) by mouth
once a day
FUROSEMIDE - furosemide 40 mg tablet. 1 tablet(s) by mouth daily
INSULIN DETEMIR U-100 [LEVEMIR U-100 INSULIN] - Levemir U-100
Insulin 100 unit/mL subcutaneous solution. ___ units SC HS
usually 10 units -  (Prescribed by Other Provider)
INSULIN LISPRO [HUMALOG U-100 INSULIN] - Humalog U-100 Insulin
100 unit/mL subcutaneous solution.  sliding scales with meals - 
(Prescribed by Other Provider)
LEVOTHYROXINE - levothyroxine 125 mcg tablet. 1 tablet(s) by
mouth once a day -  (Prescribed by Other Provider)
METOPROLOL SUCCINATE - metoprolol succinate ER 25 mg
tablet,extended release 24 hr. 2 tablet(s) by mouth daily
QUINAPRIL - quinapril 10 mg tablet. 1 tablet(s) by mouth once a
day ON HOLD -  (Prescribed by Other Provider)
 
Medications - OTC
ACETAMINOPHEN [8 HOUR PAIN RELIEVER] - 8 Hour Pain Reliever 650
mg tablet,extended release. tablet(s) by mouth every 6 hours as
needed -  (Prescribed by Other Provider)
ASPIRIN [ADULT LOW DOSE ASPIRIN] - Adult Low Dose Aspirin 81 mg
tablet,delayed release. 1 Tablet(s) by mouth once a day -  (OTC)
CHOLECALCIFEROL (VITAMIN D3) - cholecalciferol (vitamin D3) 
1,000
unit tablet. One tablet(s) by mouth Daily -  (Prescribed by 
Other
Provider)
OMEGA 3-DHA-EPA-FISH OIL [FISH OIL] - Fish Oil 1,000 mg (120
mg-180 mg) capsule. capsule(s) by mouth  ON HOLD -  (Prescribed
by Other Provider)

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H:PRN Pain - Mild  
2.  Aspirin EC 81 mg PO DAILY  
3.  Atorvastatin 80 mg PO QPM  
4.  Docusate Sodium 100 mg PO BID  
5.  Famotidine 20 mg PO DAILY  
6.  Glargine 10 Units Breakfast
Humalog 3 Units Breakfast
Humalog 3 Units Lunch
Humalog 3 Units Dinner
Insulin SC Sliding Scale using HUM Insulin 
7.  Levothyroxine Sodium 125 mcg PO DAILY  
8.  Vancomycin 750 mg IV Q 24H  
9.  Metoprolol Succinate XL 50 mg PO DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Sternal Wound 
Coronary Artery Disease 
Diabetes Mellitus, Insulin Dependent 
 
Anemia 
Asthma 
Breast Cancer s/p partial mastectomy ___ 
Carotid Artery Stenosis  
Chronic Kidney Disease 
Diabetic Neuropathy  
Fatty Liver Disease 
Hyperlipidemia 
Hypertension  
Hypothyroidism  
Ischemic Cardiomyopathy s/p IMI, with LVEF 35-40%  
Left Bundle Branch Block 
Ischemic cardiomyopathy s/p IMI, with LVEF 35-40%  
Paget's of the nipple s/p XRT  
Peripheral Vascular Disease 
Psoriatic Arthritis  
Vertigo  

 
Discharge Condition:
Alert and oriented x3 nonfocal 
Ambulating with assist
Incisional pain managed with oral analgesia
Incisions: 
Sternal - Prevena dressing & JP drain- prevena to be removed in 
plastics clinic on ___ 

 
Discharge Instructions:
Please shower daily including washing incisions gently with mild 
soap, no baths or swimming until cleared by surgeon. Look at 
your incisions daily for redness or drainage

Please NO lotions, cream, powder, or ointments to incisions 
 Each morning you should weigh yourself and then in the evening 
take your temperature, these should be written down on the chart 

 No driving for approximately one month and while taking 
narcotics, will be discussed at follow up appointment with 
surgeon when you will be able to drive 
 No lifting more than 10 pounds for 10 weeks
 Please call with any questions or concerns ___

* Please wear bra and abdominal binder to reduce pulling on 
incision, avoid rubbing on lower edge. 

**Please call cardiac surgery office with any questions or 
concerns ___. Answering service will contact on call 
person during off hours**

DC Antibiotics and lab draws per ID:
Agent & Dose:  Vancomycin 750 mg IV Q 24H 
Start Date:  ___  
Projected End Date:  ___ (6 weeks)  

ALL LAB RESULTS SHOULD BE SENT TO:
ATTN: ___ CLINIC - FAX: ___

VANCOMYCIN: WEEKLY: CBC with differential, BUN, Cr, Vancomycin
trough, CRP

ADDITIONAL ORDERS:
*PLEASE OBTAIN WEEKLY CRP for patients with bone/joint 
infections
and endocarditis or endovascular infections

FOLLOW UP APPOINTMENTS:  to  be scheduled

All questions regarding outpatient parenteral antibiotics after
discharge should be directed to the ___ R.N.s at
___ or to the on-call ID fellow when the clinic is
closed. 

 
Followup Instructions:
___